US09102673B2
Intermediate B 1:1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene
To a solution of 4-(trifluoromethoxy)phenol (1 g, 5.61 mmole) in CH3CN (20 mL) was added Cs2CO3 (3.66 g, 11.23 mmole) then 1,2-dibromoethane (2.42 mL, 28.1 mmole). The mixture was heated to reflux. After 3 days the mixture was cooled to RT, filtered through a pad of Celite washing with CH2Cl2, and concentrated. Flash column (Biotage-SNAP-50 g SiO2, 0-10% EtOAc/hexanes) gave the title compound (833 mg, 52%) as a clear liquid. 1H NMR (400 MHz, CDCl3): δ 7.15 (d, J=8.7 Hz, 2 H); 6.95-6.88 (m, 2 H); 4.29 (m, 2 H); 3.64 (t, J=6.29 Hz, 2H).

reactant | 4-(trifluoromethoxy)phenol | 5.61 mmole, 1 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | Cs2CO3 | 11.23 mmole, 3.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,2-dibromoethane | 28.1 mmole, 2.42 mL | BrCCBr | C2H4Br2
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene | 833 mg, 52% | BrCCOC1=CC=C(C=C1)OC(F)(F)F | C9H8BrF3O2
